US07589206B2
3-Methyl-4-{[1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-4-yl]amino}benzonitrile
A mixture of 4-chloro-1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridine (100 mg), 4-amino-3-methylbenzonitrile (57 mg), cesium carbonate (163 mg), tris(dibenzylideneacetone)dipalladium (0) (7 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (5 mg) in 1,4-dioxan (2 ml) was heated to 100° C. under argon overnight. The reaction mixture was diluted with dichloromethane and washed with water, followed by saturated sodium chloride solution, then dried (MgSO4), filtered and evaporated. The residue was triturated with 2:1:1 methanol/dimethylsulfoxide/diethyl ether to yield an off white solid. This was dissolved in 1:1 methanol/dichloromethane and a solution of 1.0M hydrochloric acid in diethyl ether (1.4 ml) and the solvent evaporated to afford the title compound as an off white solid (36 mg).

reactant | 4-chloro-1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridine | 100 mg | ClC1=NC=C(C2=C1C=CN2C)C(=O)N2CCOCC2 | C13H14ClN3O2
reactant | 4-amino-3-methylbenzonitrile | 57 mg | NC1=C(C=C(C#N)C=C1)C | C8H8N2
reactant | cesium carbonate | 163 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 5 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | 1,4-dioxan | 2 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol dichloromethane | CO.ClCCl
catalyst | tris(dibenzylideneacetone)dipalladium | 7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-Methyl-4-{[1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-4-yl]amino}benzonitrile | CC=1C=C(C#N)C=CC1NC1=NC=C(C2=C1C=CN2C)C(=O)N2CCOCC2 | C21H21N5O2
